US08048909B2
1-{1-[(3-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
Using tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (200 mg), sodium hydride (60% in oil, 140 mg) and 3-methoxybenzenesulfonyl chloride (433 mg), a procedure as in Example 36 was performed to give the title compound as pale-purple crystals (yield 186 mg, 68%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 200 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | sodium hydride | 140 mg | [H-].[Na+]
reactant | 3-methoxybenzenesulfonyl chloride | 433 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
product | 1-{1-[(3-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 186 mg, 68% | Cl.COC=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | InChI=1S/C19H20N2O3S.ClH/c1-20-13-15-11-19(16-7-4-3-5-8-16)21(14-15)25(22,23)18-10-6-9-17(12-18)24-2;/h3-12,14,20H,13H2,1-2H3;1H
